US06897208B2
Method B Polyphosphoric acid (500 g) was added to a 1 L flask equipped with an overhead stirrer and heated to 70° C. under nitrogen. A blended mixture of 4-nitro-3-pyrazole carboxylic acid (50 g) and 1,2-diamino-4,5-dimethylbenzene (43.4 g) was added and the mixture was heated to 180° C. After 1 hour at this temperature the reaction mixture was cooled to 130° C. and poured into ice water (2.5 kg). This mixture was stirred with an overhead stirrer and then treated with aqueous ammonium hydroxide (350 mL, 30%) until the pH was 2.1. After stirring for a further 15 minutes the mixture was filtered and the filtered solid was washed three times with water (200 mL) then dried under vacuum to give 4-nitro-1H-pyrazole-3-carboxylic acid (2-amino-4,5-dimethylphenyl)amide as a brown solid. (b) 4-Nitro-1H-pyrazole-3-carboxylic acid (2-amino-4-ethyl-5-methylphenyl)amide

reactant | 4-nitro-3-pyrazole carboxylic acid | 50 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | 1,2-diamino-4,5-dimethylbenzene | 43.4 g | NC1=C(C=C(C(=C1)C)C)N | C8H12N2
solvent | ammonium hydroxide | 350 mL | [OH-].[NH4+]
product | 4-nitro-1H-pyrazole-3-carboxylic acid (2-amino-4,5-dimethylphenyl)amide | NC1=C(C=C(C(=C1)C)C)NC(=O)C1=NNC=C1[N+](=O)[O-] | C12H13N5O3
